Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Massive meltdown"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ with hx of BPAD I v. II, ADHD, and GAD 
presenting
from the ___ student clinic ___
complaining of prolonged manic episode. Patient states that her
symptoms began around 10 days ago when she began experiencing
decreased need of sleep, elated mood, pressured speech, 
increased
productivity (primarily composing). Patient endorses increased
impulsive behavior, including going to parties and taking 1 line
of cocaine and increased alcohol intake. Patient denies 
increased
sexual drive or recent unprotected sex. These symptoms are 
fairly
typical of her past manic episodes. 

However, last ___ patient started becoming aware of her
impulsivity and feeling guilty and frustrated at her inability 
to
control it. She states she would begin crying and laughing at 
the
same time. This led to a "meltdown" four nights ago where 
patient
stayed in her apartment all day and missed a scheduled recording
in CT. She claims that she blacked out and next thing she new 
she
was standing at her friend's door in a confused state. The 
friend
took her in and she slept their over the night. Next morning,
patient noted she "felt rigid...stiff...and jittery." She was
having trouble moving, and often found herself staring into 
space
for a long amount of time while her mind was racing. She states
that she was stuttering. She said her brain felt like it was
"filled with cotton wool." She also began experiencing paranoia.
She felt everyone was staring at her at the T. She felt every
time a car honked it was for her. However, she denies AVH. She
states this made her very frustrated and upset. She stayed in 
bed
most of the day but wide awake. She slept ___ hours each night. 

This morning patient woke up and felt "a little less stiff" and
went to the ___. The on call
counselor felt she needed to be evaluated to ED and patient
agreed. When asked what she expects from her visit her she 
states
"this just has to stop...their just has to be something I can do
for my brain." She was open to idea of changing medications and
requested outpatient "intensive" treatment ("I jsut got to beat
this, I'm over it.") 

Of note, patient states she has had ~3 manic episodes this year,
all lasting ~1.5 weeks. She also describes 1 month of
self-described hypomania in ___. Patient has never been
hospitalized for her manic episodes.
 
Past Medical History:
PAST MEDICAL HISTORY:
None

PAST PSYCHIATRIC HISTORY:
-Diagnoses: BPAD I (per neuropsych test note, please read) v. 
II,
ADHD, "OCD traits", GAD, Anorexia/Bulimia (in remission since 
___, though regressed from ___ but now states
does not "have enough time for an eating disorder").
-Prior Hospitalizations: None
-History of assaultive behaviors: Denies
-History of suicide attempts or self-injurious behavior: Denies
SA. SIB (cutting) @ 16, but not presently.
-Prior med trials: Current Lamictal, Adderall
-Therapist: None
-Psychiatrist: Dr. ___ ___
 
Social History:
SUBSTANCE ABUSE HISTORY:
-EtOH: "ranges from 1 glass to 1 bottle of wine per day." 
Reports
1 bottle over past 10 days.
-Tobacco: 6 cigs/day since ___
-MJ/LSD/Ecstasy/Mushrooms: MJx1 3 months ago ("made me very
anxious, I hated it")
-Cocaine/Crack/Amphetamines: Endorses sporadic cocaine use, last
time ___ weeks ago (1 line). Hx of ecstasy use 1.5 months ago.
-Opiates: Denies, no IVDU
-Benzos: Denies

SOCIAL HISTORY: 
Patient is of ___ descent. She was born in ___ and 
moved
to ___ when she was ___. She then moved to ___ at ___.
Later, she moved to ___ and eventually went to boarding
school in ___ from age ___. She received a full scholarship
to ___ and has been doing well in school. She is a ___
and a ___. She does not work at the moment. She lives in an
aapartment with a male roommates who she dislikes greatly. 

Patient endorses having a "terrible childhood...I could not be a 
kid again." She states her mother was extremely physically 
abusive and that she was very glad to go to boarding school at 
___. Her relationship with her mother (___) is 
currently mixed.

She is in a long-distance relationship with a man from ___ 
called ___ (___). She "hates" the relationship and 
states they both hurt each other. She would like to leave the 
relationship but ___ tells her he will kill himself if she 
breaks up with him. She feels this puts a lot of pressure on 
her.
However, she does care for him.

She lists 2 close friend/contacts in the ___: ___
Family History:
Mother suffers from severe depression and maternal grandmother 
from EtOH abuse.
 
Physical Exam:
On admission:

VS:  BP: 102/76   HR: 90   temp:  98.5   O2 sat:  100% RA
 
MENTAL STATUS EXAM:
--appearance: Well groomed, in hospital ___ and scrubs with
fair eye contact
--behavior/attitude: cooperative, jocular; exhibited + PMA
--speech: Somewhat fast, with accent, normal volume and tone,
somewhat frequent cursing
--mood (in patient's words): "dysphoric" 
--affect: Expansive, mood-incongruent, appropriate
--thought content (describe): Endorses some paranoia of thinking
that little things have significance, specifically threatening 
to
her.
--thought process: Linear
--perception: without AH, VH, delusions
--SI/HI: Denies SI, HI; verbalized safety plan
--insight: fair 
--judgment: limited
 
COGNITIVE EXAM:
--orientation: alert to person, place, time, situation
--attention/concentration: able to recite MOYB
--memory (ball, chair, purple): immediate intact and remote
intact
--calculations: quarters in $2.25 = 9
--language: grossly intact
--fund of knowledge: able to recall the president on ___ 
--proverbs: provided accurate interpretations of "look before
leap," "cry over spilt milk," "apple falling from tree"
--similarities/analogies: understood analogy of "apples to
oranges"

PE:
General: Well-nourished, in no distress.
HEENT: PERRL, EOMI. 
Chest: Clear to auscultation, no wheezes, crackles, rhonchi.
Cardiovascular: Regular Rate and Rhythm, Normal first and second
heart sounds. No murmurs.
Abdominal: + BS; Soft, Nontender, ND.  
Musculoskeletal: No deformities. 
Extremities: No c/c/e
Neuro: Normal sensation and strength. Normal tone. 2+ DTRs.
___: No rash, Warm and dry
 
Pertinent Results:
___ 07:00PM   WBC-8.5 RBC-4.69 HGB-14.8 HCT-42.0 MCV-90 
MCH-31.5 MCHC-35.1* RDW-12.5
___ 07:00PM   PLT COUNT-313
___ 07:00PM   NEUTS-67.4 ___ MONOS-3.1 EOS-1.5 
BASOS-0.5
___ 07:00PM   GLUCOSE-74 UREA N-9 CREAT-0.7 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-27 ANION GAP-13
___ 07:00PM   ALT(SGPT)-11 AST(SGOT)-19 ALK PHOS-50 TOT 
BILI-0.4
___ 07:00PM   TSH-0.83
___ 07:00PM   VIT B12-888
___ 07:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 06:00PM URINE  UCG-NEGATIVE
___ 06:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 10:40AM BLOOD HCG-<5
 
Brief Hospital Course:
Psychiatric:
Ms. ___ on presentation was frustrated and reported cognitive 
clouding and concern about having so many people looking at her. 
She did not have pressured speech or disorganized thought 
process and had no AVH or overt delusions. She was initially 
started on risperidone 1 mg PO on her first night, but in the 
morning she had low BP and was orthostatic, and had a syncopal 
episode described in more detail below, so risperidone was 
discontinued.

When she was medically stabilized, lamotrigine was increased to 
175 mg, and as she had not appeared manic or psychotic on the 
unit, her Adderall was restarted. She reported feeling much 
better, thinking more clearly, less anxious about the future, 
and more able to consider the stressors that led to her 
decompensation. She was eager to start seeing a therapist again, 
in addition to her current psychiatrist and medical NP.

Medical:
As noted above, on the day after admission, Ms. ___ became 
hypotensive to the ___ and then had a brief syncopal episode 
with slight urinary incontinence and arm jerking, no head 
trauma. Medicine was consulted, and felt orthostatic hypotension 
was the cause of the syncope, itself caused by dehydration. She 
was able to rehydrate enough to become asymptomatic with PO 
fluids alone. On the day of discharge, she was orthostatic by 
pulse but maintained normal blood pressure (105/74) on standing. 
She had no more dizziness. She ultimately revealed that although 
she had not been engaging in activing eating disorder behaviors, 
she had been eating and drinking poorly prior to coming to the 
hospital and in the emergency room due to her poor mood. 

Social:
SW touched base with Ms. ___ school and arranged for her to 
follow with her providers at ___ and to meet with her ___ after 
discharge. Also spoke extensively with mother and friends.

Legal: ___
Safety: Routine Q15 min checks throughout stay without incident
 
Medications on Admission:
Lamictal 125 mg PO QAM
Adderall 25 mg PO QD
 
Discharge Medications:
1. nicotine (polacrilex) 2 mg Gum Sig: One (1) Gum Buccal Q1H 
(every hour) as needed for nicotine craving: Do not take while 
smoking.
Disp:*90 Gum(s)* Refills:*0*
2. lamotrigine 150 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
3. Lamictal 25 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
4. amphetamine-dextroamphetamine 5 mg Tablet Sig: Five (5) 
Tablet PO daily ().  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
I. Mood disorder not otherwise specified - rule out bipolar 
Disorder, recent episode hypomanic; rule outsubstance induced 
mood disorder; ETOH abuse; attention deficit hyperactivity 
disorder; history of Eating Disorder
II. deferred 
III. Healthy
IV.  relationship stress, school stress
V. 50
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

General: well groomed, pleasant, cooperative, improved eye
contact.
Speech: regular 
Mood/Affect: 'Much better'; brighter
T. Form: linear
T. Content: No SI/HI; future oriented; no paranoia
Cognition : a and o x 3, attention and memory grossly intact
J/I: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___